US06194406B1
1-(3,4,5-Trimethoxybenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-(3,4-dichlorophenyl)piperidine
Combine 1-(3,4,5-trimethoxybenzoyl)-3-(3,4-dichlorophenyl)-3-(2-methanesulfonyloxyethyl)piperidine (0.71 g, 1.32 mmol) and 4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane (0.38 g, 1.32 mmol), and N,N-diisopropylethylamine (0.37 g, 2.9 mmol) in acetonitrile (15 mL). Heat to reflux. After 36 hours, partition the residue between ethyl acetate and saturated aqueous sodium bicarbonate solution. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Chromatograph the residue on silica gel eluting with 15% methanol/2% triethylamine/ethyl acetate to give the title compound. Elemental Analysis calculated for C39H49Cl2N5O5: C 63.40; H 6.68; N 9.48; Found: C 63.68; H 6.69; N 9.57.

reactant | 1-(3,4,5-trimethoxybenzoyl)-3-(3,4-dichlorophenyl)-3-(2-methanesulfonyloxyethyl)piperidine | 1.32 mmol, 0.71 g | COC=1C=C(C(=O)N2CC(CCC2)(CCOS(=O)(=O)C)C2=CC(=C(C=C2)Cl)Cl)C=C(C1OC)OC | C24H29Cl2NO7S
reactant | 4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | 1.32 mmol, 0.38 g | C(C)OCCN1C(=NC2=C1C=CC=C2)N2CCNCCC2 | C16H24N4O
reactant | N,N-diisopropylethylamine | 2.9 mmol, 0.37 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanol | CO | CH4O
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 1-(3,4,5-Trimethoxybenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-(3,4-dichlorophenyl)piperidine | COC=1C=C(C(=O)N2CC(CCC2)(C2=CC(=C(C=C2)Cl)Cl)CCN2CCN(CCC2)C2=NC3=C(N2CCOCC)C=CC=C3)C=C(C1OC)OC | C39H49Cl2N5O5
